Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
morphine
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
___: EGD

 
History of Present Illness:
The patient is a ___ with idiopathic chronic pancreatitis s/p 
pylorus
preserving Whipple on ___ presents with ~1.5 weeks of 
decreased appetite, vomiting and LUQ pain similar to a prior 
episode in ___. Last ate a full meal 3 days ago. Up until this 
episode, he reports that he was doing well at home, with stable 
weight and tolerating small meals. Has been having chronic
constipation requiring occasional miralax/senna/Colace but has 
been passing gas consistently. Last night, had a temperature to 
99.3, and so returned to the ED for further evaluation.
Of note, he was recently briefly admitted to the ___ 
___ in ___ for dehydration and pain. He was evaluated by 
the chronic pain service, who felt his epigastric pain was 
neuropathic in nature and recommended increasing his gabapentin 
and his dilaudid, with a plan to wean the narcotic over time.

At outpatient follow-up visit in early ___, he was not having 
any nausea or vomiting, his weight had stabilized and he was 
noted to have improvement in early satiety. At this same visit, 
was prescribed omeprazole, which is to be a lifelong medication.

 
Past Medical History:
# Idiopathic chronic pancreatitis dx ___, followed by GI Dr ___ 
___ in ___  
# Hypertension
# s/p Splenectomy due to splenic vein thrombosis ___
# s/p Knee surgery
-pylorus-preserving radical pancreaticoduodenectomy on ___

 
Social History:
___
Family History:
Mother with breast cancer.
Father with valvular heart disease.
 
Physical Exam:
VS: 98.4 100 116/83 18 99% RA  
Gen: NAD
CV: RRR, no M/R/G
Resp: No respiratory distress, CTAB
Abd: Soft, nondistended, well healed abdominal incision. Tender
in LUQ, no rebound, no guarding
Ext: WWP

 
Pertinent Results:
___ 10:13PM BLOOD WBC-13.8* RBC-5.31# Hgb-16.0# Hct-49.1 
MCV-93 MCH-30.1 MCHC-32.6 RDW-14.6 RDWSD-48.9* Plt ___
___ 05:53AM BLOOD WBC-12.4* RBC-4.80 Hgb-14.4 Hct-44.2 
MCV-92 MCH-30.0 MCHC-32.6 RDW-13.9 RDWSD-47.5* Plt ___
___ 10:13PM BLOOD Glucose-216* UreaN-11 Creat-0.7 Na-134 
K-4.7 Cl-98 HCO3-23 AnGap-18
___ 05:53AM BLOOD Glucose-117* UreaN-6 Creat-0.6 Na-137 
K-3.8 Cl-101 HCO3-25 AnGap-15
___ 10:13PM BLOOD ALT-21 AST-36 AlkPhos-127 TotBili-0.4
___ 05:53AM BLOOD Calcium-8.8 Phos-4.9* Mg-1.8
___ 10:13PM BLOOD Lipase-17

___ CT ABD:
IMPRESSION: 
1. Normal appearing small and large bowel status post 
pancreaticoduodenectomy. 
2. No acute intraabdominal process. 

___ EGD:
Impression: 
Erythema in the stomach body and antrum compatible with 
gastritis (biopsy)
Fluids in stomach
The duodenojejunal anastomosis was encounter just past the 
pylorus. The anastomosis was examined carefully and appeared 
intact with no ulcerations. The biliary limb was then examined 
carefully. The hepaticojejunostomy was encountered and appeared 
intact. Suture material was noted just distal to the 
hepaticojejunostomy. The pancreatico-jejunal anastomosis was not 
directly visualized but may be at the site of the sutures. The 
alimentary limb was examined and appeared normal.
Erythema in the biliary limb of jejunum
Otherwise normal small bowel enteroscopy to jejunum. 
 
Brief Hospital Course:
The patient s/p Whipple procedure 2 months ago for chronic 
pancreatitis was admitted to the HPB Surgical Service for 
evaluation of increased abdominal pain. Abdominal CT scan was 
negative for any concerning intraabdominal process. GI and 
Chronic pain services were consulted. Patient underwent EGD, 
which demonstrated gastritis. Area was biopsied and patient home 
dose PPI was increased. Chronic pain service recommended to 
continue home dose pain medications. Patient was referred to 
Pain ___ behavioral an cognitive therapies. Patient's PCP 
was contacted, and PCP agreed to continue patient chronic pain 
or refer the patient to pain specialist. Patient was discharged 
home in stable condition.   
At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled. The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
1. ALPRAZolam 0.5 mg PO QHS:PRN insomnia 
2. Creon 12 2 CAP PO TID W/MEALS 
3. Docusate Sodium 100 mg PO BID 
4. DULoxetine 60 mg PO DAILY 
5. Fentanyl Patch 12 mcg/h TD Q72H 
6. Gabapentin 900 mg PO TID 
7. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
RX *hydromorphone 2 mg ___ tablet(s) by mouth q4 Disp #*168 
Tablet Refills:*0
8. Nicotine Patch 21 mg TD DAILY 
9. Omeprazole 20 mg PO DAILY 
10. Ondansetron 4 mg PO Q8H:PRN nausea 
11. Senna 8.6 mg PO BID 

 
Discharge Medications:
1. Creon 12 2 CAP PO TID W/MEALS 
2. Docusate Sodium 100 mg PO BID 
3. DULoxetine 60 mg PO DAILY 
4. Fentanyl Patch 12 mcg/h TD Q72H 
5. Gabapentin 900 mg PO TID 
RX *gabapentin 300 mg 3 capsule(s) by mouth three times a day 
Disp #*270 Capsule Refills:*0
6. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
RX *hydromorphone 2 mg ___ tablet(s) by mouth every four (4) 
hours Disp #*60 Tablet Refills:*0
7. Nicotine Patch 21 mg TD DAILY 
8. Omeprazole 40 mg PO Q12H 
RX *omeprazole 40 mg 1 capsule(s) by mouth every twelve (12) 
hours Disp #*60 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Gastritis
2. Chronic pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the surgery service at ___ to evaluation 
of your abdominal pain. You underwent abdominal CT scan, which 
was negative for intraabdominal process, and EGD which 
demonstrated gastritis. Your PPI was increased to BID (twice a 
day). You were discharged home on home dose of pain medication 
per Chronic Pain Service. Gabapentin was added for your pain 
treatment. You PCP was contacted prior to discharge and she 
agreed to continue prescribe your pain medications and starting 
to wean them off. GI service will notify you with results of 
your gastric biopsy. 
 
Followup Instructions:
___